US04187246
phenyl 4-tert.-butyl-2,6-dimethyl-3-hydroxyphenylacetate
p-tert.-Octylphenyl 4-tert.-butyl-2,6-dimethyl-3-hydroxyphenylacetate is made in analogous manner by substitutin p-tert.-octylphenol for phenol in the above procedure.

reactant | p-tert.-Octylphenyl 4-tert.-butyl-2,6-dimethyl-3-hydroxyphenylacetate | C(C)(C)(C)C1=C(C(=C(C(=C1)C)CC(=O)OC1=CC=C(C=C1)C(C)(C)CC(C)(C)C)C)O | C28H40O3
reactant | p-tert.-octylphenol | C(C)(C)(CC(C)(C)C)C1=CC=C(C=C1)O | C14H22O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | phenyl 4-tert.-butyl-2,6-dimethyl-3-hydroxyphenylacetate | C(C)(C)(C)C1=C(C(=C(C(=C1)C)CC(=O)OC1=CC=CC=C1)C)O | C20H24O3
